Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old F with history of HTN and OA who presents via EMS 
for syncope.  
She was attending her granddaughter's wedding this evening and 
having a great time. She had 2 glasses of wine and was dancing. 
She took a break and sat on a bench next to her daughter. Her 
daughter then noticed that the patient's eyes rolled back and 
she became unresponsive to voice. No shaking or loss of 
bowel/bladder control was noted at this time. There was a doctor 
at the wedding who checked her pulse, which was present. Patient 
herself says she never actually passed out, and that she 
remembers the whole thing and denies having any symptoms at all. 
Her daughter called ___.  

In the ED, initial vitals were: T 96.8, P 60, BP 136/66, RR 18, 
O2sat 99% on RA.

Labs notable for:  
Normal CBC, chem-7  
Trop < 0.01  

Imaging notable for:  
CXR ___: 
1. No evidence of pneumonia.  
2. Moderately-sized hiatal hernia.  
3. Severe compression fracture in a low thoracic vertebral body, 
with resulting kyphosis.  

Patient was given IVF in the ED.   
 
Vitals prior to transfer: T 97.5, P 57, BP 103/80, RR 16, O2sat 
98% on RA.  
 
On the floor, she feels fine. She denies fevers, cough, chest 
pain, shortness of breath, abdominal pain, n/v/d/c, or dysuria. 
She had no preceding symptoms prior to this reported event. 
Again she states she remembers the whole thing. She does state 
that she takes a "pain pill" (which her daughter believes is 
hydrocodone) every morning. She also takes metoprolol succinate 
and Synthroid in the morning. Patient thinks that she was 
dehydrated. She lives in ___ and was visiting there for 
the wedding. She had many activities to do and believes she had 
forgotten to eat/drink much in the preceding ___ days.  
 
Past Medical History:
Hypertension
Osteoarthritis  
Hypothyroidism  
 
Social History:
___
Family History:
Father- DM and MI  
Mother- bacterial endocarditis  
Brother- died of polio  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==============================
Vital Signs: T 94.5, BP 131/73, P 70, RR 18, O2sat 96% on RA  
Wt 53.1 kg  
General: Alert, oriented, no acute distress  
HEENT: mouth without bite lesions; wine staining in mouth and 
lips  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities 

DISCHARGE PHYSICAL EXAM:
===============================
VS - T 94.5-97.7, BP 130-143/72-83, P 60-70, RR 18, O2sat 96-97% 
on RA
Orthostatics: 
Lying BP 139/73, P 60
Sitting BP 143/81, P 65
Standing BP 138/83, P 68
Wt 53.1 kg  
General: Alert, oriented, no acute distress   
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact 
 

 
Pertinent Results:
ADMISSION LABS:
======================
___ 01:10AM BLOOD WBC-6.6 RBC-4.79 Hgb-15.5 Hct-47.4* 
MCV-99* MCH-32.4* MCHC-32.7 RDW-12.9 RDWSD-46.7* Plt ___
___ 01:10AM BLOOD Neuts-44.4 ___ Monos-8.4 Eos-2.6 
Baso-0.6 Im ___ AbsNeut-2.93 AbsLymp-2.86 AbsMono-0.55 
AbsEos-0.17 AbsBaso-0.04
___ 01:10AM BLOOD Glucose-87 UreaN-20 Creat-1.1 Na-135 
K-5.9* Cl-100 HCO3-21* AnGap-20
___ 01:10AM BLOOD cTropnT-<0.01
___ 01:10AM BLOOD K-4.4

DISCHARGE LABS:
======================
___ 06:50AM BLOOD WBC-4.2 RBC-4.24 Hgb-13.7 Hct-41.9 
MCV-99* MCH-32.3* MCHC-32.7 RDW-12.9 RDWSD-46.5* Plt ___
___ 06:50AM BLOOD Glucose-65* UreaN-18 Creat-0.9 Na-139 
K-4.0 Cl-105 HCO3-23 AnGap-15
___ 06:50AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:50AM BLOOD Calcium-9.2 Phos-3.0 Mg-1.7

IMAGING:
======================
CXR (___): IMPRESSION: 
1. No evidence of pneumonia. 
2. Background COPD.  Probable cardiomegaly. 
3. Moderately large hiatal hernia. 
4. Severe compression fracture in a low thoracic vertebral body, 
associated with accentuated kyphosis.  This is of uncertain 
acuity.  If the patient has new onset focal symptoms in this 
area, the possibility of a recent thoracic spine fracture would 
be difficult to exclude and further assessment with MRI or CT 
would be useful. 

 
Brief Hospital Course:
___ year-old F with history of HTN and OA (takes oxycodone for 
pain) who presents with syncope. 

#Syncope: Patient's episode was likely secondary from 
dehydration as patient had poor PO intake with physical activity 
and alcohol intake vs sedation from both alcohol and hydrocodone 
intake. Metoprolol in this context could have also precipitated 
her symptoms. Although the patient had no cardiac symptoms, a 
workup to rule out cardiac causes was done. EKG was not 
concerning. Troponin x2 were negative. Patient was monitored on 
tele overnight and was in NSR with no events noted. Orthostatic 
vitals were checked and found to be within normal limits. CXR 
revealed no underlying pathology or infectious process. 
Patient's metoprolol was held during this hospitalization as it 
could have contributed or precipitated patient's symptoms. 
Patient's dose of metoprolol succinate was decreased to 50 mg 
daily. An outpatient ECHO can also be considered to evaluate for 
any structural deformities.

#Desaturation on ambulation: Of note, patient experienced 
desaturations to 89% while ambulatory that increased to 92% 
after a few minutes. In addition to this, CXR revealed 
hyperinflated lungs so further pulmonology workup can be 
considered in the outpatient setting

#OA: Patient's hydrocodone was held in the setting of syncope. 

#HTN: Patient's metoprolol was held in the setting of syncope, 
as explained above, during this hospitalization. At discharge, 
dose of metoprolol was adjusted to 50 mg daily. 

#Macrocytosis and Thrombocytopenia: CBC should be repeated at 
primary care MD follow up (see below) and possible further 
evaluation indicated pending findings.

TRANSITIONAL ISSUES:
=============================
-Medications changed: metoprolol Xl 100 changed to 50 daily 
-Medications stopped: hydrocodone. Can reassess and restart this 
medication in the outpatient setting. 
-Follow-up with PCP for evaluation for: echo, review of 
medications, ambulatory saturations, consider referral to 
pulmonology, and: for repeat cbc check - pt noted to be 
macrocytic and thrombocytopenic (mildly)
-Consider outpatient ECHO. 
-Of note, patient experienced desaturations to 89% while 
ambulatory that increased to 92% a few minutes later. In 
addition to this, CXR revealed hyperinflated lungs so further 
pulmonology workup can be considered in the outpatient setting.
-CXR revealed the following findings, which should be 
followed-up in the outpatient setting: Background COPD. Probable 
cardiomegaly. Moderately large hiatal hernia. Severe compression 
fracture in a low thoracic vertebral body, associated with 
accentuated kyphosis. This is of uncertain acuity. If the 
patient has new onset focal symptoms in this area, the 
possibility of a recent thoracic spine fracture would be 
difficult to exclude and further assessment with MRI or CT would 
be useful.
 
Medications on Admission:
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN Pain 
- Severe 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO DAILY 
2.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Syncope, likely hypovolemic 

Secondary:
Osteoarthritis
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital because you felt weak at your 
granddaughter's wedding. We did a workup to evaluate your heart, 
and you had no irregular heart rate, no signs of lab 
abnormalities and no signs of a heart attack. 

We stopped your pain medication because it could have caused you 
to be weak. It is important for you to follow-up with your 
primary care provider.  

We are now discharging you on a lower dose of your blood 
pressure medication (metoprolol from 100 to 50 daily). You also 
had lower than normal oxygen saturations when you walked so 
please follow up with your doctor regarding this. It was a 
pleasure taking care of you. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___